US08980879B2
3-iodo-7-methoxy-1-methyl-1H-pyrrolo[2,3-c]pyridine
3-Iodo-7-methoxy-1H-pyrrolo[2,3-c]pyridine (0.75 g, 2.74 mmol) in dimethylformamide (10 mL) was treated with 60% sodium hydride in mineral oil (0.219 g, 5.47 mmol) at ambient temperature for 20 minutes. To this solution was added methyl iodide (0.505 g, 3.56 mmol). The reaction mixture was stirred for 3 hours at ambient temperature. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (silica gel, 10% ethyl acetate in hexanes) to afford the title compound (0.75 g, 95%).

reactant | 3-Iodo-7-methoxy-1H-pyrrolo[2,3-c]pyridine | 2.74 mmol, 0.75 g | IC1=CNC2=C(N=CC=C21)OC | C8H7IN2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 3.56 mmol, 0.505 g | CI | CH3I
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-iodo-7-methoxy-1-methyl-1H-pyrrolo[2,3-c]pyridine | 0.75 g, 95% | IC1=CN(C2=C(N=CC=C21)OC)C | C9H9IN2O
